US05618839
4-Amino-2-nitrobenzoic acid ethyl ester
A solution of 4-acetylamino-2-nitrobenzoic acid (1.80 g, 8.0 mmol) in 12 N hydrochloric acid (14 mL) and absolute ethyl alcohol (10 mL) was heated to 90°-100° C. for 5 h. Concentrated down in vacuo to remove ethyl alcohol only, adjusted pH to 4 with 1N sodium hydroxide and filtered off precipitate to give 140 mg (Y: 8%) of the title compound; 1H-NMR (CDCl3): δ7.61 (d, J=8.5 Hz, 1H), 6.82 (d, J=2.1 Hz, 1H), 6.74 (dd, J=8.5, 2.1 Hz, 1H), 6.52 (bs, 2H), 4.17 (q, J=7.1 Hz, 2H), 1.21 (t, J=7.1 Hz, 3H); MS (DCI) m/e: 211 (MH+).

reactant | 4-acetylamino-2-nitrobenzoic acid | 8.0 mmol, 1.80 g | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H8N2O5
reactant | ethyl alcohol | 10 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 12 N, 14 mL | Cl | ClH
product | 4-Amino-2-nitrobenzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)N)[N+](=O)[O-])=O | C9H10N2O4
